US09084826B2
tert-Butyl 2-(2-aminoethoxyl)ethylcarbamate (150 mg, 0.735 mmol) is then taken up in CH3CN (10 mL) along with the sodium salt of atorvastatin (0.735 mmol) and EDCI (155 mg, 0.81 mmol). The resulting reaction mixture is stirred at room temperature for 18 h. It is then diluted with EtOAc (20 mL), washed with saturated aqueous NaHCO3, brine, dried over Na2SO4, filtered and concentrated under reduced pressure. The resulting residue is purified by silica gel chromatography (9:1 CH2Cl2/MeOH) to afford tert-butyl 2-(2-((3R,5R)-7-(2-(4-fluorophenyl)-5-isopropyl-3-phenyl-4-(phenylcarbamoyl)-1H-pyrrol-1-yl)-3,5-dihydroxyheptanamido)ethoxy)ethylcarbamate.

reactant | tert-Butyl 2-(2-aminoethoxyl)ethylcarbamate | 0.735 mmol, 150 mg | NCCOCCNC(OC(C)(C)C)=O | C9H20N2O3
reactant | sodium | [Na] | Na
reactant | atorvastatin | 0.735 mmol | CC(C)C1=C(C(=C(N1CC[C@H](C[C@H](CC(=O)O)O)O)C=2C=CC(=CC2)F)C=3C=CC=CC3)C(=O)NC=4C=CC=CC4 | C33H35FN2O5
reactant | EDCI | 0.81 mmol, 155 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | CH3CN | 10 mL | CC#N | C2H3N
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
product | tert-butyl 2-(2-((3R,5R)-7-(2-(4-fluorophenyl)-5-isopropyl-3-phenyl-4-(phenylcarbamoyl)-1H-pyrrol-1-yl)-3,5-dihydroxyheptanamido)ethoxy)ethylcarbamate | FC1=CC=C(C=C1)C=1N(C(=C(C1C1=CC=CC=C1)C(NC1=CC=CC=C1)=O)C(C)C)CC[C@H](C[C@H](CC(=O)NCCOCCNC(OC(C)(C)C)=O)O)O | C42H53FN4O7
